US06458772B1
d) 2-(N-(iodomethoxycarbonyl)-amino)-2-methyl-1-(N-benzyloxycarbonyl-L-valyloxy)-propane
To a solution of 2-(N-(chloromethoxycarbonyl)-amino)-2-methyl-1-(N-benzyloxycarbonyl-L-valyloxy)propane (1.05 g, 2.53 mmole) in dry acetone (20 ml) was added sodium iodide (1.8 g, 12 mmole) and the mixture was stirred for 36 hours at room temperature. The mixture was evaporated under reduced pressure and ethyl acetate and water were added. The organic phase was washed with 10% sodium thiosulfate solution and water. The organic phase was dried with sodium sulfate and evaporated under reduced pressure. Yield: 1.04 g=81%

reactant | 2-(N-(chloromethoxycarbonyl)-amino)-2-methyl-1-(N-benzyloxycarbonyl-L-valyloxy)propane | 2.53 mmole, 1.05 g | ClCOC(=O)NC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)(C)C | C19H27ClN2O6
reactant | sodium iodide | 12 mmole, 1.8 g | [I-].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-(N-(iodomethoxycarbonyl)-amino)-2-methyl-1-(N-benzyloxycarbonyl-L-valyloxy)-propane | ICOC(=O)NC(COC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)(C)C | C19H27IN2O6
